data/polar.json
{"reaction_name": "Malonate alkylation", "rsmi": "[CH3:3][Br:9].[O:1]([CH3:4])[C:10](=[O:6])[CH-:8][C:11]([O:2][CH3:5])=[O:7]>>[Br-:9].[O:1]([CH3:4])[C:10](=[O:6])[CH:8]([CH3:3])[C:11]([O:2][CH3:5])=[O:7]", "epd": [["LP-/Sigma+", [8], [3, 8]], ["Sigma-/LP+", [3, 9], [9]]]}
{"reaction_name": "Michael addition", "rsmi": "[O-:1][C:22](=[CH:4][c:14]1[cH:17][cH:11][cH:31][cH:12][cH:18]1)[O:30][CH2:32][CH3:16].[O:2]=[C:26]1[N:7]([CH3:23])[C:25](=[O:9])[N:8]([CH3:24])[C:27](=[O:3])[C:19]1=[CH:21][c:10]1[cH:28][cH:5][c:20]([O:15][CH3:13])[cH:6][cH:29]1>>[O:1]=[C:22]([CH:4]([c:14]1[cH:17][cH:11][cH:31][cH:12][cH:18]1)[CH:21]([c:10]1[cH:28][cH:5][c:20]([O:15][CH3:13])[cH:6][cH:29]1)[c:19]1[c:26]([O-:2])[n:7]([CH3:23])[c:25](=[O:9])[n:8]([CH3:24])[c:27]1=[O:3])[O:30][CH2:32][CH3:16]", "epd": [["LP-/Pi+", [1], [22, 1]], ["Pi-/Sigma+", [4, 22], [4, 21]], ["Pi-/Pi+", [21, 19], [19, 26]], ["Pi-/LP+", [26, 2], [2]]]}
{"reaction_name": "σ-Adduct formation on a neutral electron-poor arene / heteroarene", "rsmi": "[O-:1][n+:9]1[o:23][n:16][c:12]2[c:14]3[n+:8]([O-:17])[o:2][n:20][c:15]3[c:19]([N+:5]([O-:21])=[O:25])[cH:13][c:27]12.[S:3]1(=[O:28])(=[O:29])[c:18]2[c:6]([cH:11][cH:4][cH:22][cH:10]2)[C:26]([O-:7])=[N:24]1>>[O-:1][n+:9]1[o:23][n:16][c:12]2[c:27]1[CH:13]([N:24]1[S:3](=[O:28])(=[O:29])[c:18]3[c:6]([cH:11][cH:4][cH:22][cH:10]3)[C:26]1=[O:7])[C:19](=[N+:5]([O-:21])[O-:25])[c:15]1[c:14]-2[n+:8]([O-:17])[o:2][n:20]1", "epd": [["LP-/Pi+", [7], [26, 7]], ["Pi-/Sigma+", [24, 26], [24, 13]], ["Pi-/Pi+", [13, 19], [19, 5]], ["Pi-/LP+", [5, 25], [25]]]}
{"reaction_name": "Michael addition", "rsmi": "[CH:1]1=[CH:2][c:3]2[cH:9][cH:8][cH:29][cH:6][c:18]2[CH:30]1[Na:19].[S:4]([c:10]1[cH:21][cH:14][cH:12][cH:17][cH:24]1)([C:20]([S:5]([c:11]1[cH:22][cH:15][cH:13][cH:16][cH:23]1)(=[O:25])=[O:26])=[CH2:7])(=[O:27])=[O:28]>>[CH:1]1=[CH:2][c:3]2[cH:9][cH:8][cH:29][cH:6][c:18]2[CH:30]1[CH2:7][C-:20]([S:4]([c:10]1[cH:21][cH:14][cH:12][cH:17][cH:24]1)(=[O:27])=[O:28])[S:5]([c:11]1[cH:22][cH:15][cH:13][cH:16][cH:23]1)(=[O:25])=[O:26].[Na+:19]", "epd": [["Sigma-/Sigma+", [30, 19], [30, 7]], ["Pi-/LP+", [7, 20], [20]]]}
{"reaction_name": "Dearomatizing capture of a tropylium / arenium ion", "rsmi": "[cH:1]1[cH:12][cH:20][c:6]([S:26](=[O:7])(=[O:8])[CH:14]=[C:22]2[CH:4]=[CH:17][C:23](=[N+:19]([O-:15])[O-:16])[CH:18]=[CH:5]2)[cH:21][cH:13]1.[cH:2]1[cH:3][cH:11][cH:25][cH+:9][cH:24][cH:10]1>>[cH:1]1[cH:12][cH:20][c:6]([S:26](=[O:7])(=[O:8])[CH:14]([CH:9]2[CH:24]=[CH:10][CH:2]=[CH:3][CH:11]=[CH:25]2)[c:22]2[cH:4][cH:17][c:23]([N+:19](=[O:15])[O-:16])[cH:18][cH:5]2)[cH:21][cH:13]1", "epd": [["LP-/Pi+", [15], [19, 15]], ["Pi-/Pi+", [23, 19], [18, 23]], ["Pi-/Pi+", [5, 18], [22, 5]], ["Pi-/Sigma+", [14, 22], [14, 9]]]}
{"reaction_name": "Mukaiyama–Mannich addition", "rsmi": "[CH2:6]=[N+:10]([CH3:8])[CH3:9].[O:1]([Si:2]([CH3:3])([CH3:4])[CH3:5])[C:12](=[CH2:7])[CH3:11]>>[O:1]=[C:12]([CH2:7][CH2:6][N:10]([CH3:8])[CH3:9])[CH3:11].[Si+:2]([CH3:3])([CH3:4])[CH3:5]", "epd": [["LP-/Pi+", [1], [1, 12]], ["Sigma-/LP+", [1, 2], [1]], ["Pi-/Sigma+", [7, 12], [6, 7]], ["Pi-/LP+", [6, 10], [10]]]}
{"reaction_name": "σ-Bond carbon transfer to a preformed localized carbocation", "rsmi": "[cH:10]1[c:21]([CH+:42][c:22]2[cH:11][c:25]([F:29])[cH:41][c:26]([F:30])[cH:12]2)[cH:13][c:23]([F:27])[cH:40][c:24]1[F:28].[cH:1]1[cH:3][c:36]([B-:37]2([c:9]3[s:18][c:8]([CH3:20])[cH:14][cH:31]3)[O:6][c:38]3[cH:33][cH:35][cH:34][cH:32][c:39]3[O:7]2)[cH:4][cH:2][c:5]1[C:19]([F:15])([F:16])[F:17]>>[c:8]1([CH3:20])[cH:14][cH:31][c:9]([CH:42]([c:21]2[cH:10][c:24]([F:28])[cH:40][c:23]([F:27])[cH:13]2)[c:22]2[cH:11][c:25]([F:29])[cH:41][c:26]([F:30])[cH:12]2)[s:18]1.[cH:1]1[cH:3][c:36](-[b-:37]2[o+:6][c:38]3[cH:33][cH:35][cH:34][cH:32][c:39]3[o:7]2)[cH:4][cH:2][c:5]1[C:19]([F:15])([F:16])[F:17]", "epd": [["LP-/Pi+", [6], [37, 6]], ["Sigma-/Sigma+", [9, 37], [9, 42]]]}
{"reaction_name": "Dearomatizing addition to an azaarenium / acridinium ion", "rsmi": "[cH:1]1[c:18]2[cH:13][cH:26][c:22]([S-:9])[cH:11][c:23]2[cH:10][cH:3][cH:21]1.[n+:2]1([CH3:12])[c:4]2[cH:14][cH:19][cH:16][cH:6][c:24]2[cH:8][c:25]2[c:5]1[cH:15][cH:20][cH:17][cH:7]2>>[cH:1]1[c:18]2[cH:13][cH:26][c:22]([S:9][CH:8]3[c:24]4[c:4]([cH:14][cH:19][cH:16][cH:6]4)[N:2]([CH3:12])[c:5]4[cH:15][cH:20][cH:17][cH:7][c:25]43)[cH:11][c:23]2[cH:10][cH:3][cH:21]1", "epd": [["LP-/Sigma+", [9], [9, 8]], ["Pi-/Pi+", [8, 24], [24, 4]], ["Pi-/LP+", [4, 2], [2]]]}
{"reaction_name": "Michael addition", "rsmi": "[C:1](#[N:13])[C:24]([C:2]#[N:14])=[CH:3][c:26]1[cH:8][cH:17][cH:27][cH:18][cH:9]1.[c:4]1([S:19](=[O:22])(=[O:23])[CH-:28][c:10]2[cH:6][cH:20][cH:25][cH:21][cH:7]2)[cH:11][cH:15][cH:5][cH:16][cH:12]1>>[C:1](=[N-:13])=[C:24]([C:2]#[N:14])[CH:3]([c:26]1[cH:8][cH:17][cH:27][cH:18][cH:9]1)[CH:28]([c:10]1[cH:6][cH:20][cH:25][cH:21][cH:7]1)[S:19]([c:4]1[cH:11][cH:15][cH:5][cH:16][cH:12]1)(=[O:22])=[O:23]", "epd": [["LP-/Sigma+", [28], [28, 3]], ["Pi-/Pi+", [3, 24], [24, 1]], ["Pi-/LP+", [1, 13], [13]]]}
